US05106861
Step F: 3-amino3.4-dihydro-6.8-dimethoxy-2(1H)-naphthalenone. hydrochloride
α,α-Diethoxymethyl-β-tert-butoxycarbonylamino-3,5-dimethoxy-benzenepropanol (200 g) was dissolved in aqueous 37% hydrochloric acid (20 ml) cooled at 0° C. The resulting red solution was warmed at 100° C. for 3 minutes and then immediate ly cooled at 0° C. Evaporation of the reaction mixture yielded a brown solid which was recrystallized from an ethyl acetate/methanol mixture to give the title compound as a brown solid (101 mg).

reactant | α,α-Diethoxymethyl-β-tert-butoxycarbonylamino-3,5-dimethoxy-benzenepropanol | 200 g | C(C)OCC(C(CC1=CC(=CC(=C1)OC)OC)NC(=O)OC(C)(C)C)(O)COCC | C22H37NO7
reactant | hydrochloric acid | 20 ml | Cl | ClH
product | 3-amino3.4-dihydro-6.8-dimethoxy-2(1H)-naphthalenone. hydrochloride | 101 mg | Cl.NC1C(CC2=C(C=C(C=C2C1)OC)OC)=O | InChI=1S/C12H15NO3.ClH/c1-15-8-3-7-4-10(13)11(14)6-9(7)12(5-8)16-2;/h3,5,10H,4,6,13H2,1-2H3;1H
